US05286894
A solution of the Grignard reagent prepared from E-1-phenyl-2-(2 -bromophenyl)ethylene (8.56 g) and magnesium (0.96 g) in dry tetrahydrofuran (20 ml) was added dropwise over 30 minutes to a stirred solution of dimethyl oxalate (7.76 g) in dry tetrahydrofuran (70 ml) cooled to -15° C. The resulting mixture was stirred at about -15° C. for 30 minutes, then at room temperature for 1 hour, then poured into dilute hydrochloric acid and extracted with ether. The extracts were washed with water, dried and concentrated to give the crude product as a pale yellow oil (17.22 g). Purification by column chromatography using dichloromethane and petrol (1:1) as eluant then evaporative distillation (0.07 torr, oven temperature 170° C.) gave E-methyl 2-(2'-phenylethenyl)phenylglyoxalate (2.01 g, 23% yield) as a yellow oil, pure by GC, 1H nmr (CDCl3) : delta 3.78 (3H, s), 6.88 (centre of 2 doublets, each 1 H, J 16Hz) p.p.m.

reactant | E-1-phenyl-2-(2 -bromophenyl)ethylene | 8.56 g | C1(=CC=CC=C1)\C=C\C1=C(C=CC=C1)Br | C14H11Br
reactant | magnesium | 0.96 g | [Mg] | Mg
reactant | dimethyl oxalate | 7.76 g | C(C(=O)OC)(=O)OC | C4H6O4
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | E-methyl 2-(2'-phenylethenyl)phenylglyoxalate | 2.01 g, 23% yield | C1(=CC=CC=C1)/C=C/C1=C(C=CC=C1)C(C(=O)OC)=O | C17H14O3
